US08975276B2
A 100 mL round bottom flask was charged with commerically available 6-chloropyrimidin-4-amine (300 mg, 2.316 mmol) and 2-bromo-1-phenylethanone (922 mg, 4.63 mmol). The mixture was suspended in acetonitrile (23.2 mL) and the flask was fitted with a reflux condenser and heated to reflux via heating mantle. The reaction mixture was let stir overnight. After 17 hours, LCMS showed a major peak consistent with desired by mass (m/z=230 [M+H]+); (Methanol/Water/Ammonium Acetate/Phenomenex Luna C18, 30×2 mm, 3μ ES+/−). The reaction mixture was cooled to room temperature and concentrated under reduced pressure. The crude solid was diluted with ethyl acetate and a saturated solution of sodium bicarbonate. The contents of the flask were transferred into a separatory funnel where the aqueous was extracted with ethyl acetate (×3), analyzed for product, and subsequently discarded. The combined organics were transferred into a 125 mL Erlenemyer flask and heated using a heat gun to dissolve the remaining crude. The solution was transferred back into a separatory funnel and the organic was washed with brine (×2), dried with magnesium sulfate, concentrated under reduced pressure and purified by flash chromatography: (40 g SiO2, equilibrated with hexanes, loaded with dichloromethane, initial waste: 125 mL, fraction size: 12 mL 16×100 mm, and eluted with ethyl acetate in hexanes 0% [100 mL], 10% [250 mL], 20% [1000 mL]). Collected product containing fractions to give 7-chloro-2-phenylimidazo[1,2-c]pyrimidine (206 mg, 0.897 mmol, 38.7% yield) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ 9.38 (d, J=1.3 Hz, 1H), 8.54 (d, J=0.8 Hz, 1H), 8.06-7.99 (m, 2H), 7.86 (d, J=0.8 Hz, 1H), 7.54-7.45 (m, 2H), 7.44-7.37 (m, 1H). Mass found 230 [M+H]+.

reactant | 6-chloropyrimidin-4-amine | 2.316 mmol, 300 mg | ClC1=CC(=NC=N1)N | C4H4ClN3
reactant | 2-bromo-1-phenylethanone | 4.63 mmol, 922 mg | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
reactant | Methanol Water Ammonium Acetate | CO.O.C(C)(=O)[O-].[NH4+]
solvent | acetonitrile | 23.2 mL | C(C)#N | C2H3N
product | 7-chloro-2-phenylimidazo[1,2-c]pyrimidine | 0.897 mmol, 206 mg, 38.7% yield | ClC1=CC=2N(C=N1)C=C(N2)C2=CC=CC=C2 | C12H8ClN3
